US07642378B2
A mixture of intermediate (40) (0.0084 mol) and Na2CO3 (0.01 mol) in DMF (150 ml) was stirred. Methyl 2-bromo-2-phenylacetate (0.01 mol) was added dropwise. The mixture was stirred overnight. The solvent was evaporated. The residue was dissolved in DCM. The organic layer was separated, washed, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: DCM 100%). The pure fractions were collected and the solvent was evaporated. The residue was triturated in DIPE. The precipitate was filtered off and dried, yielding 2.79 g of 1-piperidineacetic acid, 4-[4-[([1,1′-biphenyl]-2-ylcarbonyl)amino]phenyl]-α-phenyl-, methyl ester (intermediate 41).

reactant | Na2CO3 | 0.01 mol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Methyl 2-bromo-2-phenylacetate | 0.01 mol | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1-piperidineacetic acid | 2.79 g | N1(CCCCC1)CC(=O)O | C7H13NO2
